US05162312
f) 17beta-methoxy-16alpha,17alpha-methylene-estra-4,9-dien-3-one
9.5 g of 17beta-methoxy-16alpha,17alpha-methylene-estr-5(10)-en-3-one (crude product) is dissolved in 130 ml of pyridine and then, with cooling (-5° C.), mixed with 11.5 of pyridine hydrobromide perbromide within 5 minutes. Then, the cooling is removed and the reaction solution warming slowly to room temperature is stirred for about 30 minutes, and then mixed with 3 ml of methylbutene and an excess bromation agent is consumed. Then, it is stirred for 4 hours at room temperature and then stirred into ice water, and the steroid precipitates in oily crystalline form. For complete crystallization, it is stored for 16 hours in the refrigerator and the steroid is fritted. 8 g of crystalline crude product is obtained. After extraction with methylene chloride and chromatography on neutral aluminum oxide with benzene/ethyl acetate (20:1 to 9:1), about 1 g of dienone can be obtained from the filtrate, dienone which can be crystallized from acetone/n-hexane (total yield 9 g). Melting point: 117° C. to 121° C., [α]D =-203°.

reactant | 17beta-methoxy-16alpha,17alpha-methylene-estr-5(10)-en-3-one | 9.5 g | CO[C@]12[C@]3(C)[C@@H](C[C@H]1C2)[C@@H]2CCC=1CC(CCC1[C@H]2CC3)=O | C20H28O2
reactant | pyridine hydrobromide perbromide | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
product | 17beta-methoxy-16alpha,17alpha-methylene-estra-4,9-dien-3-one | 8 g | CO[C@]12[C@]3(C)[C@@H](C[C@H]1C2)[C@@H]2CCC1=CC(CCC1=C2CC3)=O | C20H26O2
